US07253198B2
To a solution of 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (D4a) (200 mg, 0.85 mmol, 1 equiv) in CH2Cl2 (5 ml) and DMF (5 ml) was added NEt3 (0.181 ml, 1.3 mmol, 1.5 equiv) and methanesulphonyl chloride (0.071 ml, 1 mmol, 1.2 equiv). The resultant mixture was stirred at room temperature for 1 h, diluted with AcOEt (30 ml), washed with 2N aqueous HCl solution (30 ml), dried over MgSO4 and concentrated in vacuo. The residue was triturated with Et2O and then filtered to give 3-methanesulfonylamino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (B53) as a pale yellow solid (100 mg, 38%).

reactant | 3-amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 0.85 mmol, 200 mg, 1 equiv | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)N)=O | C12H14N2O3
reactant | NEt3 | 1.3 mmol, 0.181 ml, 1.5 equiv | CCN(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1 mmol, 0.071 ml, 1.2 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 30 ml | CCOC(=O)C | C4H8O2
product | 3-methanesulfonylamino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 100 mg, 38% | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)NS(=O)(=O)C)=O | C13H16N2O5S
